US05556863
Preparation of 3-butyryl-4-(2-chlorophenylamino)8-(2-methylsulfinylethoxy)quinoline
3-butyryl-4-(2-chlorophenylamino)-8-(2-methylthioethoxy)quinoline (0.34 g, 0.82 mmol) was dissolved in methylene chloride (4 ml). Water (2 ml) and sodium hypochlorite (5% in water) (1.37 ml) were added and the mixture was stirred for 2 h. Another portion of sodium hypochlorite (0.5 ml) was added and the stirring was continued for 2 h. The organic layer was dried over sodium sulfate and evaporated. The residue crystallized from a mixture of ethyl acetate and isopropyl ether and 0.25 g (71%) of the title compound was obtained.

reactant | 3-butyryl-4-(2-chlorophenylamino)-8-(2-methylthioethoxy)quinoline | 0.82 mmol, 0.34 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)Cl)OCCSC | C22H23ClN2O2S
reactant | Water | 2 ml | O | H2O
reactant | sodium hypochlorite | 1.37 ml | Cl[O-].[Na+]
reactant | sodium hypochlorite | 0.5 ml | Cl[O-].[Na+]
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 3-butyryl-4-(2-chlorophenylamino)8-(2-methylsulfinylethoxy)quinoline | 0.25 g, 71% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)Cl)OCCS(=O)C | C22H23ClN2O3S
